US06100397
Method C A mixture of methyl 2-(3-chloropropoxy)-indole-3-carboxylate (100 g, 0.37 mol), aqueous sodium hydroxide solution (38 ml, 10.8M, 0.41 mol), water (38 ml) and tetrabutylammonium bromide (6.0 g, 0.019 mol) in toluene (1000 ml) was stirred at 50-60° C. for about one hour. Water (120 ml) was added and the aqueous layer was removed. The organic layer was washed with water (120 ml) and dried by azeotropic distillation of toluene (250 m) giving a dry solution of methyl 3,4-dihydro-2H-[1,3]-oxazino[3,2-a]indole-10-carboxylate in toluene. This solution was cooled to ambient temperature and treated sequentially with a solution of 1-butyl-4-piperidinylmethylamine (66.8 g, 0.39 mol) in toluene (200 ml) followed by a solution of trimethylaluminium in toluene (196 ml, 2.0M, 0.39 mol). The mixture was heated to reflux and stirred for three hours. The reaction was quenched by cautious addition of aqueous sodium hydroxide solution (460 ml, 10% w/v) and then washed once with aqueous sodium hydroxide solution (460 ml, 10% w/v) and twice with water (275 ml each wash) while maintaining the temperature at about 70° C. Toluene (200 ml) was added and the resulting solution was dried by azeotropic distillation of toluene (200 ml) at about 55° C. under reduced pressure. Hexane (1400 ml) was added and the resulting slurry cooled to about 0-5° C. for about one hour. The solid was isolated by filtration and dried in vacuo to give the product, N-[(1-butyl-4-piperidinyl)methyl]-3,4-dihydro-2H-[1,3]-oxazino[3,2-a]indole-10-carboxamide, (114.7 g, 83%) as a white crystalline solid.

reactant | methyl 2-(3-chloropropoxy)-indole-3-carboxylate | 0.37 mol, 100 g | ClCCCOC=1NC2=CC=CC=C2C1C(=O)OC | C13H14ClNO3
reactant | sodium hydroxide | 0.41 mol, 10.8M, 38 ml | [OH-].[Na+]
reactant | water | 38 ml | O | H2O
reactant | Water | 120 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.019 mol, 6.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3,4-dihydro-2H-[1,3]-oxazino[3,2-a]indole-10-carboxylate | O1CCCN2C1=C(C=1C=CC=CC21)C(=O)OC | C13H13NO3
